Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])[O:5][C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:4],4.25561684039
[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.7455734210400005
[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-2.58868359159
[C:1]#[C:2][C:7]([H:8])([H:9])[O:10][H:11].[C:3]([H:4])[O:5][H:6]>>[C:1]/[C:2](=[C:3](/[H:4])[O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.42911248701
[H:1][C:2][O:3][C:4](=[C:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7]>>[H:1][C:2][O:3]/[C:4](=[C:5]\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-5.60100939456
[C:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][C:3]([H:4])([H:5])[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.49550985287
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10].[O:11][H:12]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-5.53830585449
[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[O:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],-1.5649033096399998
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3][H:4],4.83149273165
[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],2.32519634024
[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:4]#[C:5][H:6].[H:1][C:2](=[C:3][C:8]([H:9])([H:10])[O:11][H:12])[H:7],6.206349804839999
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12],4.43599346105
[C:1]=[C:2]([H:3])[C:4]([C:5]#[C:6])[O:7][H:8]>>[C:1]=[C:2]([H:3])[C:4]([C:5]#[C:6])=[O:7].[H:8],4.08434451436
[H:1][C:2]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-5.10956132343
[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:1]([H:9])=[C:10]([H:11])[H:12].[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])#[C:8],3.3991573929900003
[H:14].[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.613702594059999
[H:4].[O:1]=[C:2]([H:3])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.333318294826
[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.68937085706
[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:11]([H:12])[H:13].[O:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-1.28212566627
[C:1]#[C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.87399149209
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:9]([H:10])[H:11].[O:7][H:8],6.16482811306
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5],3.65436452806
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4],0.741980831749
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:14].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13],4.6290518917300005
[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9],1.57706268176
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14].[H:7],4.2684458884900005
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.70739776067
